US07683179B2
Solubility of Crystalline and Amorphous Salts of Lercanidipine
The solubility of crystalline lercanidipine besylate, napadisylate and hydrochloride and amorphous lercanidipine besylate was evaluated by UV-Visible spectroscopy in aqueous 0.1 M HCl (pH 1) at 22° C. Suspensions of approximately 0.3 mg/ml of the respective compounds were prepared in an aqueous 0.1 M HCl and equilibrated by shaking for 24 hours. Following equilibration, the samples were filtered (0.1 μm filter) and the concentration was determined photometrically using Perkin Elmer Lambda 16 (Überlingen, Germany). Reference measurements were performed with 20% acetonitrile as a co-solvent.

reactant | lercanidipine besylate | CC1=C(C(C(=C(N1)C)C(=O)OC(C)(C)CN(C)CCC(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=C(C4)[N+](=O)[O-])C(=O)OC.S(=O)(=O)([O-])C1=CC=CC=C1
reactant | hydrochloride | Cl | ClH
reactant | HCl | 0.1 M, pH 1 | Cl | ClH
reactant | HCl | 0.1 M | Cl | ClH
product | Lercanidipine | CC1=C(C(C(=C(N1)C)C(=O)OC(C)(C)CN(C)CCC(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=C(C4)[N+](=O)[O-])C(=O)OC | C36H41N3O6
